US04474754
0.39 Gram of Z-Leu-Gly-NHNH2 was dissolved in 5 ml of dimethylformamide and 0.58 ml of 6N HCl/dioxane, then a reaction similar to that described in Reference example 1 was carried out by using 10 ml of a dimethylformamide solution containing 0.15 ml of isoamyl nitrite, 0.49 ml of triethylamine and 1.00 g of H-Phe-Leu-Gln-Arg(Tos)-Ser-Ser-OH, further an equivalent amount of Z-Leu-Gly-N3 was added to the reaction mixture and reacted at 4° C. for 20 hours. The reaction mixture was extracted with butanol, the extract was washed with 2%-acetic acid, then butanol and acetic acid were removed by sistillation, the residue was crystallized from ether. The crystals were collected by filtration and washed with a hot methanol to obtain 0.65 g of Z-Leu-Gly-Phe-Leu-Gln-Arg(Tos)-Ser-Ser-OH.

reactant | Z-Leu-Gly-NHNH2 | N([C@@H](CC(C)C)C(=O)NCC(=O)NN)C(=O)OCC1=CC=CC=C1 | C16H24N4O4
reactant | isoamyl nitrite | 0.15 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | H-Phe-Leu-Gln-Arg(Tos)-Ser-Ser-OH | 1.00 g | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)O | C39H58N10O12S
reactant | Z-Leu-Gly-N3 | N([C@@H](CC(C)C)C(=O)NCC(=O)N=[N+]=[N-])C(=O)OCC1=CC=CC=C1 | C16H21N5O4
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | HCl dioxane | 6N, 0.58 ml | Cl.O1CCOCC1
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.49 ml | C(C)N(CC)CC | C6H15N
product | Z-Leu-Gly-Phe-Leu-Gln-Arg(Tos)-Ser-Ser-OH | 0.65 g | N([C@@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)O)C(=O)OCC1=CC=CC=C1 | C55H78N12O16S
